US04385070
A solution of phosphorus oxychloride (1.4 g) in methylene chloride (4 ml) was added slowly to a solution of 2,3,5,6-tetrafluoro-4-toluamide (1.0 g) in pyridine (8 ml) at -5° C. When the addition was complete the mixture was warmed to the ambient temperature over a period of 90 minutes, poured into a mixture of dilute hydrochloric acid and ice, and the resultant mixture was extracted with methylene chloride. After washing the extract with water (three times) and drying over anhydrous magnesium sulphate, the solvent was removed by evaporation under reduced pressure. The residual oil was purified by distillation under water pump pressure in a Kugelrohr apparatus to yield 4-cyano-2,3,5,6-tetrafluorotoluene, identified by infra red spectroscopy.

reactant | phosphorus oxychloride | 1.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,3,5,6-tetrafluoro-4-toluamide | 1.0 g | FC1=C(C(=C(C(=C1F)C(=O)N)F)F)C | C8H5F4NO
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 4-cyano-2,3,5,6-tetrafluorotoluene | C(#N)C1=C(C(=C(C(=C1F)F)C)F)F | C8H3F4N
